US06632824B2
3-(3,4-Dichloro-phenyl)-8-methyl-8-aza-bicyclo[3.2.1]oct-2-ene
To 2.35 g (8.76 mmol) of 3-(3,4-dichloro-phenyl)-8-methyl-8-aza-bicyclo[3.2.1]octan-3-ol in 50 mL of Cl(CH2)2Cl is added 1.92 mL (3.13 g, 26.67 mmol) SOCl2. After stirring at 23 C for 17 h, the reaction mixture is poured into 5 N NaOH, extracted with 1×100 mL H2O, 1×100 mL brine, dried over MgSO4, filtered and extracted to give a brown oil. Flash chromatography on SiO2, eluting with CHCl3/MeOH (40/1 to 10/1) gives 1.24 g (4.62 mmol, a 53% yield) of the title compound as an orange oil. MS (ES) m/z 269 (MH)+.

reactant | 3-(3,4-dichloro-phenyl)-8-methyl-8-aza-bicyclo[3.2.1]octan-3-ol | 8.76 mmol, 2.35 g | ClC=1C=C(C=CC1Cl)C1(CC2CCC(C1)N2C)O | C14H17Cl2NO
reactant | SOCl2 | 26.67 mmol, 1.92 mL, 3.13 g | O=S(Cl)Cl | Cl2OS
reactant | NaOH | 5 N | [OH-].[Na+]
solvent | Cl(CH2)2Cl | 50 mL | ClCCCl | C2H4Cl2
product | 3-(3,4-Dichloro-phenyl)-8-methyl-8-aza-bicyclo[3.2.1]oct-2-ene | 53% yield | ClC=1C=C(C=CC1Cl)C1=CC2CCC(C1)N2C | C14H15Cl2N
